US06083908
A solution of N-aminopiperidine (2.0 ml, 18.5 mmol) and methylformate (2.3 ml, 37 mmol) was stirred for four days in a sealed tube at 40° C. The mixture was concentrated in vacuo, suspended in ether (100 ml) and filtered to give 1.84 g of N-(piperidin-1-yl)formamide as a white powder.

reactant | N-aminopiperidine | 18.5 mmol, 2.0 ml | NN1CCCCC1 | C5H12N2
reactant | methylformate | 37 mmol, 2.3 ml | COC=O | C2H4O2
product | N-(piperidin-1-yl)formamide | 1.84 g | N1(CCCCC1)NC=O | C6H12N2O
